US04533739
2-[(2-Methyl-4-aminophenyl)amino]azacyclohept-1-ene, dihydrochloride
The title compound was prepared by the methods of Examples 8 and 9 using 2-chloroazacyclohept-1-ene (0.2 mole), prepared as in Example 3, and 15.2 g (0.1 mole) of 2-methyl-4-nitroaniline. Structure assignment was supported by elemental analysis.

reactant | 2-chloroazacyclohept-1-ene | 0.2 mole | ClC1=NCCCCC1 | C6H10ClN
reactant | 2-methyl-4-nitroaniline | 0.1 mole, 15.2 g | CC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O2
product | 2-[(2-Methyl-4-aminophenyl)amino]azacyclohept-1-ene, dihydrochloride | Cl.Cl.CC1=C(C=CC(=C1)N)NC1=NCCCCC1 | InChI=1S/C13H19N3.2ClH/c1-10-9-11(14)6-7-12(10)16-13-5-3-2-4-8-15-13;;/h6-7,9H,2-5,8,14H2,1H3,(H,15,16);2*1H
